US09416135B2
To a solution of (R)-methyl-2-(5-(2-hydroxypropan-2-yl)-4-(trifluoromethyl)pyrimidin-2-yl)-1-isopropyl-7-(methylsulfonyl)-1,2,3,4-tetrahydrobenzo[4,5]imidazo[1,2-a]pyrazine-8-carboxylate (109 mg, 0.196 mmol) in DCM (4 mL) was added a solution of DIBAL-H in DCM (0.98 mL of a 1.0 M solution, 0.98 mmol) dropwise at −78° C. The reaction slowly warmed to −10° C. over approximately 1 h, at which point 1 mL of MeOH was added to quench the excess DIBAL-H. Sat. aq. Rochelle salt (potassium sodium tartrate (KNaC4H4O6)) solution (5 mL) and DCM (5 mL) were added and the mixture stirred vigorously for 15 min. The DCM layer was separated and the aqueous layer was extracted with DCM (2×5 mL). The DCM layers were combined, dried using Na2SO4 and evaporated to give the crude product. Purification using ISCO FCC eluting with 70% EtOAc in Hexanes gave 71 mg of 2-(2-(8-(hydroxymethyl)-1-isopropyl-7-(methylsulfonyl)-3,4-dihydrobenzo[4,5]imidazo[1,2-a]pyrazin-2(1H)-yl)-4-(trifluoromethyl)pyrimidin-5-yl)propan-2-ol as a racemic mixture (69%). LC-MS MS (ESI) m/z 528.25 [M+H]+. 1H NMR (CDCl3, 400 MHz): δ 8.72 (s, 1H), 8.05 (s, 1H), 7.80 (s, 1H), 6.01 (d, J=7.6 Hz, 1H), 5.27 (d, J=4.4 and 14.0 Hz, 1H), 5.00-4.86 (m, 2H), 4.26-4.08 (m, 2H), 3.74-3.67 (m, 1H), 3.15 (s, 3H), 3.15-3.10 (m, 1H), 2.47-2.40 (m, 1H), 1.96 (b, 1H), 1.59 (s, 6H), 1.23 (d, J=6.8 Hz, 3H), 1.10 (d, J=6.8 Hz, 3H).

reactant | (R)-methyl-2-(5-(2-hydroxypropan-2-yl)-4-(trifluoromethyl)pyrimidin-2-yl)-1-isopropyl-7-(methylsulfonyl)-1,2,3,4-tetrahydrobenzo[4,5]imidazo[1,2-a]pyrazine-8-carboxylate | 0.196 mmol, 109 mg | COC(=O)C=1C(=CC2=C(N=C3N2CCN([C@@H]3C(C)C)C3=NC=C(C(=N3)C(F)(F)F)C(C)(C)O)C1)S(=O)(=O)C | C24H28F3N5O5S
reactant | DIBAL-H | CC(C)C[AlH]CC(C)C
reactant | MeOH | 1 mL | CO | CH4O
solvent | DCM | 4 mL | C(Cl)Cl | CH2Cl2
product | 2-(2-(8-(hydroxymethyl)-1-isopropyl-7-(methylsulfonyl)-3,4-dihydrobenzo[4,5]imidazo[1,2-a]pyrazin-2(1H)-yl)-4-(trifluoromethyl)pyrimidin-5-yl)propan-2-ol | 71 mg | OCC=1C(=CC2=C(N=C3N2CCN(C3C(C)C)C3=NC=C(C(=N3)C(F)(F)F)C(C)(C)O)C1)S(=O)(=O)C | C23H28F3N5O4S
